US07157447B2
2-Azidomethyl-5-fluoro-N,N-dimethyl-benzenesulfonamide.
A mixture of intermediate 46, 2-bromomethyl-5-fluoro-N,N-dimethyl-benzenesulfonamide, (880 mg, 2.97 mmol) and sodium azide (200 mg, 3 mmol) in dimethylformamide (4 mL) was stirred at 55–60° C. for 30 min after which the solvent was removed in vacuo. The residue was partitioned between CH2Cl2 and water, and the organic phase was washed with water, dried (Na2SO4), filtered and concentrated to provide 670 mg (Yield 87%) of the title compound as a yellow oil; 1H NMR (500 MHz, CDCl3) δ ppm: 2.84 (6H, s) 4.78 (2H, s) 7.29–7.34 (1H, m) 7.59–7.64 (2H, m).

reactant | 2-bromomethyl-5-fluoro-N,N-dimethyl-benzenesulfonamide | 2.97 mmol, 880 mg | BrCC1=C(C=C(C=C1)F)S(=O)(=O)N(C)C | C9H11BrFNO2S
reactant | sodium azide | 3 mmol, 200 mg | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | 2-Azidomethyl-5-fluoro-N,N-dimethyl-benzenesulfonamide | 670 mg, Yield 87% | N(=[N+]=[N-])CC1=C(C=C(C=C1)F)S(=O)(=O)N(C)C | C9H11FN4O2S
